US05593989
Step A: N-(8-oxo-2,3,6,7-tetrahydro-5H-naphtho[2,3- b]furan-7-yl)propionamide
23 ml of triethylamine and 5.7 ml of propionyl chloride are added in succession to 17 g of dl-7-amino- 2,3,6,7-tetrahydro-5H-naphtho[2,3-b]furan-8-one hydrochloride suspended in 170 ml of methylene chloride. After 2 hours' stirring at room temperature, the reaction mixture is washed with water, decanted and concentrated to dryness. 20 g of the desired compound are obtained.

reactant | triethylamine | 23 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 5.7 ml | C(CC)(=O)Cl | C3H5ClO
reactant | 7-amino- 2,3,6,7-tetrahydro-5H-naphtho[2,3-b]furan-8-one hydrochloride | Cl.NC1CCC2=CC3=C(OCC3)C=C2C1=O
solvent | methylene chloride | 170 ml | C(Cl)Cl | CH2Cl2
product | N-(8-oxo-2,3,6,7-tetrahydro-5H-naphtho[2,3- b]furan-7-yl)propionamide | 20 g | O=C1C(CCC2=CC3=C(OCC3)C=C12)NC(CC)=O | C15H17NO3
